US04183856
A mixture of 2-amino-4-methylthiazole (1.14 g), N,N-dimethylcarbamoyl chloride (1.29 g), aluminum chloride (1.60 g), and xylene (40 ml) is refluxed for 20 hours. The reaction mixture is worked up as in Example 1, whereby 1,1-dimethyl-3-(4-methyl-2-thiazolyl)urea (1.73 g) is obtained. Yield is 93.5%. Melting point is 97° to 98° C. (Pure product is recrystallized from ether/petroleum ether).

reactant | 2-amino-4-methylthiazole | 1.14 g | NC=1SC=C(N1)C | C4H6N2S
reactant | N,N-dimethylcarbamoyl chloride | 1.29 g | CN(C(=O)Cl)C | C3H6ClNO
reactant | aluminum chloride | 1.60 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | xylene | 40 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 1,1-dimethyl-3-(4-methyl-2-thiazolyl)urea | 1.73 g, Yield is 93.5% | CN(C(=O)NC=1SC=C(N1)C)C | C7H11N3OS
